US07312241B2
[3-(tert-butyldimethylsilanyloxy)-4-methoxyphenyl]-(3,5-dimethoxyphenyl) methanone (0.74 g, 1.84 mmol), cyanomethylphosphonic acid diethyl ester (0.58 ml, 3.68 mmol) in anhydrous THF (10 ml), and lithium bis (trimethylsilyl)amide (1.0 M solution in THF, 3.70 ml, 3.68 mmol) were treated in the same manner as described above for the synthesis of 3-(2,3-dihydrobenzo[1,4]dioxin-6-yl)-3-(3,5-dimethoxyphenyl)-acrylonitrile. The crude was purified via flash column chromatography (100% hexane gradient to 20% EtOAc in hexane in about 40 min.) to give 3-[3-(tert-butyl-dimethyl-silanyloxy)-4-methoxy-phenyl]-3-(3,5-dimethoxy-phenyl)-acrylonitrile as an clear colorless oil (0.58 g, 74%): 1HNMR (CDCl3) δ 7.09-6.78 (m, 3H, Ar), 6.53-6.51 (m, 2H, Ar), 6.41 (d, J=2 Hz, 1H, Ar), 5.60 (s, 1H, CH), 3.86-3.76 (multiple singlets, 9H), 0.97 (s, 9H, 3OCH3), 0.14 (s, 6H, 2OCH3). The product was carried over to the next step.

reactant | [3-(tert-butyldimethylsilanyloxy)-4-methoxyphenyl]-(3,5-dimethoxyphenyl) methanone | 1.84 mmol, 0.74 g | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1OC)C(=O)C1=CC(=CC(=C1)OC)OC | C22H30O5Si
reactant | cyanomethylphosphonic acid diethyl ester | 3.68 mmol, 0.58 ml | C(C)OP(OCC)(=O)CC#N | C6H12NO3P
reactant | lithium bis (trimethylsilyl)amide | 3.68 mmol, 1.0 M, 3.70 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3-(2,3-dihydrobenzo[1,4]dioxin-6-yl)-3-(3,5-dimethoxyphenyl)-acrylonitrile | O1CCOC2=C1C=CC(=C2)C(=CC#N)C2=CC(=CC(=C2)OC)OC | C19H17NO4
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-[3-(tert-butyl-dimethyl-silanyloxy)-4-methoxy-phenyl]-3-(3,5-dimethoxy-phenyl)-acrylonitrile | 0.58 g, 74% | C(C)(C)(C)[Si](OC=1C=C(C=CC1OC)C(=CC#N)C1=CC(=CC(=C1)OC)OC)(C)C | C24H31NO4Si
